US06972287B1
Step A (Scheme 1): Preparation of 1,1-Dibutylamino-4-[2-(4-nitrophenyl)ethenyl]benzene
The title compound was prepared from p-nitrophenylacetic acid (9.92 g, 0.055 mol) and 4-dibutylamino-benzaldehyde (14.32 g, 0.055 mol) in piperidine (5 mL) using the procedure described in Example 1, Step A. This procedure yielded a red solid, 4.12 g (0.012 mol, 16%) of the desired product.

reactant | p-nitrophenylacetic acid | 0.055 mol, 9.92 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | 4-dibutylamino-benzaldehyde | 0.055 mol, 14.32 g | C(CCC)N(C1=CC=C(C=O)C=C1)CCCC | C15H23NO
solvent | piperidine | 5 mL | N1CCCCC1 | C5H11N
product | 1,1-Dibutylamino-4-[2-(4-nitrophenyl)ethenyl]benzene | 0.012 mol, 4.12 g, 16% | C(CCC)NC1(CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-])NCCCC | C22H31N3O2
